US04268510
A suspension of 3,4-dihydro-6-hydroxy-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazin-4-one (prepared as described in Example 3--2.5 g.) in ethanol (125 ml.) was stirred, ethanolic sodium hydroxide (32 ml. of a 0.36 M solution) was added, and the mixture was stirred for 30 minutes. Iodomethane (1.5 ml.) was added, and the solution was heated on a steam-bath for 1 hour. The solvent was evaporated under reduced pressure, and the residue was dissolved in a mixture of diethyl ether (100 ml.) and N sodium hydroxide solution (50 ml.). The ether layer was separated, the aqueous layer was re-extracted with ether (100 ml.), and the ether extracts were combined and dried. The solvent was evaporated, and the sticky residue was stirred for 15 minutes with petroleum ether (b.p. 60°-80°, 100 ml.). then filtered and washed with more petroleum ether to yield 3,4-dihydro-6-methoxy-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazin-4-one, m.p. 162°-165° C.

reactant | 3,4-dihydro-6-hydroxy-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazin-4-one | 3--2.5 g | OC=1C=CC2=C(C(NC(O2)C(Cl)(Cl)Cl)=O)C1 | C9H6Cl3NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Iodomethane | 1.5 ml | IC | CH3I
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 3,4-dihydro-6-methoxy-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazin-4-one | COC=1C=CC2=C(C(NC(O2)C(Cl)(Cl)Cl)=O)C1 | C10H8Cl3NO3
